US08003743B2
d) Synthesis of Chloro(1,1,3,3,6-pentamethyl-1,2,3,5-tetrahydro-s-indacen-5-yl)dimethylsilane
A 2.5 M n-BuLi solution in hexane (3.8 mL, 9.50 mmol, n-BuLi:indacene=1:1) was added dropwise at 0° C. to a solution of 2.16 g of 1,1,3,3,6-pentamethyl-1,2,3,5-tetrahydro-s-indacene (9.54 mmol) in 40 mL of Et2O. At the end of the addition, the resulting light yellow solution was allowed to warm up to room temperature and stirred for 1 h with final formation of a white suspension. An aliquot of this suspension was quenched with CD3OD and dried: the related 1H NMR analysis in CDCl3 showed complete conversion of the starting indacene to the corresponding lithium salt. The latter was then cooled again to 0° C. and added to a solution of Me2SiCl2 (98%, 1.27 g, d=1.064, 9.64 mmol) in 10 mL of Et2O, previously cooled to 0° C. too. The reaction mixture was allowed to warm up to room temperature and stirred for 16 h with final formation of a white suspension. After 40 min stirring at r.t. the conversion was ca. 80% by 1H NMR analysis. The solvents were removed in vacuo and the residue extracted with 70 mL of toluene to remove the LiCl. The filtrate was brought to dryness in vacuo at 40° C. to give a thick yellow oil as product (3.03 g), which tended to crystallize by standing at room temperature. Isolated yield=97.9% (purity 97.9% wt. by 1 H NMR analysis). Starting indacene was still present in 2.1% wt.

reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 9.50 mmol, 3.8 mL | CCCCCC | C6H14
reactant | 1,1,3,3,6-pentamethyl-1,2,3,5-tetrahydro-s-indacene | 9.54 mmol, 2.16 g | CC1(CC(C2=CC=3CC(=CC3C=C12)C)(C)C)C | C17H22
reactant | Me2SiCl2 | 9.64 mmol, 1.27 g | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
solvent | Et2O | 40 mL | CCOCC | C4H10O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | Chloro(1,1,3,3,6-pentamethyl-1,2,3,5-tetrahydro-s-indacen-5-yl)dimethylsilane | yield=97.9% | Cl[Si](C)(C)C1C=2C=C3C(CC(C3=CC2C=C1C)(C)C)(C)C | C19H27ClSi
